US05087737
The reaction product was cooled, and analyzed by gas chromatography. This analysis showed that the conversion of methacrylic acid amide was 94%, the selectivity of methyl methacrylate based on methacrylic acid amide was 91%, and the selectivity of formamide was 98%. In addition, 8% of methyl α-methoxyisobutyrate was obtained in a yield of 8%.

reactant | methacrylic acid amide | C(C(=C)C)(=O)N | C4H7NO
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | formamide | C(=O)N | CH3NO
product | methyl α-methoxyisobutyrate | 8% | COC(C(=O)OC)(C)C | C6H12O3
